US04650799
1,2-Bis(4-cyclohexylcarbonyloxymethyl-3,5-dioxopiperazin-1-yl)ethane
To a mixture of 1,2-bis(4-hydroxymethyl-3,5-dioxopiperazin-1-yl)ethane (0.32 g, 1.0 m mol) and pyridine (9 ml), cyclohexanecarbonyl chloride (0.3 ml, 2.2 m mol) was added gradually, and then the mixture was stirred for 12 hours at room temperature. The reaction mixture was diluted with ethyl acetate (100 ml) and was washed with 10% sulfuric acid solution and successively with water and was dried. The crude product obtained by removing the solvent under reduced pressure from the above mixture was purified by silica gel column chromatography (ethyl acetate: chloroform=2:1, Rf value=0.6) to give the oily titled compound (0.16 g, yield 30%).

reactant | 1,2-bis(4-hydroxymethyl-3,5-dioxopiperazin-1-yl)ethane | 0.32 g | OCN1C(CN(CC1=O)CCN1CC(N(C(C1)=O)CO)=O)=O | C12H18N4O6
reactant | pyridine | 9 ml | N1=CC=CC=C1 | C5H5N
reactant | cyclohexanecarbonyl chloride | 0.3 ml | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1,2-Bis(4-cyclohexylcarbonyloxymethyl-3,5-dioxopiperazin-1-yl)ethane | 0.16 g, yield 30% | C1(CCCCC1)C(=O)OCN1C(CN(CC1=O)CCN1CC(N(C(C1)=O)COC(=O)C1CCCCC1)=O)=O | C26H38N4O8
